US07691892B2
j) 3-{5-[1-(3-Pyridin-4-yl-4,5,6,7-tetrahydro-1,2,3a,8-tetraaza-azulen-8-yl)-ethyl]-tetrazol-2-yl}-benzonitrile
The title compound is prepared from 8-{1-[2-(3-iodo-phenyl)-2H-tetrazol-5-yl]-ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro-4H-1,2,3a,8-tetraaza-azulene (1 mmol), zinc cyanide (1.1 mmol), palladium (0) tetrakis-triphenylphosphine (0.05 mmol) in DMF (5 mL) at 80° C. overnight.

reactant | 8-{1-[2-(3-iodo-phenyl)-2H-tetrazol-5-yl]-ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro-4H-1,2,3a,8-tetraaza-azulene | 1 mmol | IC=1C=C(C=CC1)N1N=C(N=N1)C(C)N1CCCCN2C(=NN=C12)C1=CC=NC=C1 | C20H20IN9
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.1 mmol | [C-]#N.[Zn+2].[C-]#N
product | 3-{5-[1-(3-Pyridin-4-yl-4,5,6,7-tetrahydro-1,2,3a,8-tetraaza-azulen-8-yl)-ethyl]-tetrazol-2-yl}-benzonitrile | N1=CC=C(C=C1)C1=NN=C2N(CCCCN12)C(C)C=1N=NN(N1)C=1C=C(C#N)C=CC1 | C21H20N10
